US09376418B2
A mixture of N-[3-(5-aminopyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine (20.0 mg, 0.058 mmol), oxoacetic acid (4.29 mg, 0.058 mmol) in DMF (0.579 mL, 0.1 M), and trifluoroacetic acid (8.92 μL, 0.116 mmol). was stirred for 1 hour at room temperature. Si-cyanoborohydride (123 mg, 0.116 mmol, 0.94 g/mmol) was added to the reaction mixture and stir for 12 hours at room temperature. The reaction mixture was filtered, concentrated in vacuo and the residue was purified by reverse phase liquid chromatography (5:95 to 95:5, acetonitrile:water+0.1% v/v formic acid) afforded N-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-3-yl]glycine as the formic acid salt. MS APCI calc'd for C19H17F3N5O2 [M+H]+ 404. found 404. 1H NMR (600 MHz, DMSO-d6) δ 10.24 (s, 1H), 8.82 (d, J=4.9 Hz, 1H), 8.02 (d, J=1.8 Hz, 1H), 7.96 (d, J=2.6 Hz, 1H), 7.89 (s, 1H), 7.53 (s, 1H), 7.26 (d, J=4.9 Hz, 1H), 7.11 (s, 1H), 7.05 (s, 2H), 3.91 (s, 2H), 2.34 (s, 3H).

reactant | N-[3-(5-aminopyridin-3-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 0.058 mmol, 20.0 mg | NC=1C=C(C=NC1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C17H14F3N5
reactant | oxoacetic acid | 0.058 mmol, 4.29 mg | O=CC(=O)O | C2H2O3
reactant | trifluoroacetic acid | 0.116 mmol, 8.92 μL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMF | 0.1 M, 0.579 mL | CN(C)C=O | C3H7NO
product | N-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-3-yl]glycine | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=C(C=NC1)NCC(=O)O | C19H16F3N5O2
